US05321137
186 g of valeric anhydride are added dropwise to a solution of 143.5 g of 3,4-diamino-2-chloropyridine in 1350 ml of THF and the mixture is stirred for 16 hours at 20°. 1 l of saturated NaHCO3 solution and 340 ml of saturated Na2CO3 solution are added. The mixture is filtered, the filtrate is extracted with ethyl acetate and the extract is dried over Na2SO4 and evaporated to give 4-amino-2-chloro-3-valeramidopyridine, (IVa), m.p. 163°, yield: 192 g.

reactant | valeric anhydride | 186 g | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
reactant | 3,4-diamino-2-chloropyridine | 143.5 g | NC=1C(=NC=CC1N)Cl | C5H6ClN3
reactant | NaHCO3 | 1 l | C(=O)(O)[O-].[Na+]
reactant | Na2CO3 | 340 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 1350 ml | C1CCOC1 | C4H8O
product | 4-amino-2-chloro-3-valeramidopyridine | yield: 192 g | NC1=C(C(=NC=C1)Cl)NC(CCCC)=O | C10H14ClN3O
